US04208514
To 100 ml of acetonitrile was added 10.0 g of 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one- -2,2-dioxide and 4.9 g of potassium t-butoxide. The mixture was stirred vigorously and 3.3 ml of chloroacetyl chloride in 50 ml acetanitrile was added dropwise over a 0.5 hour period. The resultant mixture as stirred overnight, filtered and the solvent removed from the filtrate in vacuo. The residue was washed with carbon tetrachloride and filtered. The tan granular precipitate was dissolved in 50 ml of methylene chloride and 50 ml of carbon tetrachloride was added. The methylene chloride was removed under a nitrogen atmosphere and the resultant mixture was filtered. The precipitate was washed 5% aqueous potassium carbonate, filtered and the white flocculent precipitate air dried to afford 2.23 g of 1-(2-chloroacetyl)-3-(1-methylethyl)- -1H-2,1,3-benzothiadiazin-4 (3H)-one-2,2-dioxide, m.p. 133°-135° C.

reactant | 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one- -2,2-dioxide | 10.0 g | CC(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | potassium t-butoxide | 4.9 g | CC(C)([O-])C.[K+]
reactant | chloroacetyl chloride | 3.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-chloroacetyl)-3-(1-methylethyl)- -1H-2,1,3-benzothiadiazin-4 (3H)-one-2,2-dioxide | 2.23 g | ClCC(=O)N1S(N(C(C2=C1C=CC=C2)=O)C(C)C)(=O)=O | C12H13ClN2O4S
